US09371321B2
Step A: tert-Butyl (S)-3-(5-(1-(((benzyloxy)carbonyl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-2,5-dihydro-1H-pyrrole-1-carboxylate
A mixture of benzyl (S)-(1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)carbamate (850 mg, 2.19 mmol), tert-butyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,5-dihydro-1H-pyrrole-1-carboxylate (904 mg, 3.06 mmol), K2CO3 (605 mg, 4.38 mmol) and Pd(dppf)Cl2 (170 mg, 0.22 mmol) in anhydrous DMF (25 mL) was stirred at 100° C. for 5 hours under nitrogen. After the solvent was removed, the residue was purified by silica gel column chromatography (PE/EtOAc=7:1) to give the title compound as a yellow oil (900 mg, 87%). ESI-MS m/z [M+H]+ calc'd for C22H32N4O4, 477. found 477.

reactant | benzyl (S)-(1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)carbamate | 2.19 mmol, 850 mg | BrC=1C=C2C(=NC1[C@H](C)NC(OCC1=CC=CC=C1)=O)C=CN2C | C18H18BrN3O2
reactant | tert-butyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,5-dihydro-1H-pyrrole-1-carboxylate | 3.06 mmol, 904 mg | CC1(OB(OC1(C)C)C=1CN(CC1)C(=O)OC(C)(C)C)C | C15H26BNO4
reactant | K2CO3 | 4.38 mmol, 605 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)Cl2 | 0.22 mmol, 170 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-Butyl (S)-3-(5-(1-(((benzyloxy)carbonyl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-2,5-dihydro-1H-pyrrole-1-carboxylate | 900 mg, 87% | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C=2CN(CC2)C(=O)OC(C)(C)C | C27H32N4O4
